US08334315B2
3-chloroaniline (K-IV) (1 eq., 50 g) was dissolved at −5 to 0° C. in concentrated HCl (300 ml) and stirred for 10 min. A mixture of NaNO2 (1.2 eq., 32.4 g), water (30 ml), SnCl2.2H2O (2.2 eq., 70.6 g) and concentrated HCl (100 ml) was added dropwise over a period of 3 h while maintaining the temperature. After stirring for a further 2 h at −5 to 0° C., the reaction mixture was set to pH 9 using NaOH solution and extracted with EE (250 ml). The combined organic phases were dried over magnesium sulphate and the solvent was removed under vacuum. The purification by column chromatography (SiO2, 8% EE/hexane) produced 40 g (72% yield) of (3-chlorophenyl)hydrazine (K-IV) as a brown oil.

reactant | 3-chloroaniline | 50 g, 1 eq. | ClC=1C=C(N)C=CC1 | C6H6ClN
reactant | NaNO2 | 32.4 g, 1.2 eq. | N(=O)[O-].[Na+]
reactant | SnCl2.2H2O | 70.6 g, 2.2 eq. | O.O.Cl[Sn]Cl
reactant | NaOH | [OH-].[Na+]
solvent | HCl | 300 ml | Cl | ClH
solvent | HCl | 100 ml | Cl | ClH
solvent | water | 30 ml | O | H2O
product | (3-chlorophenyl)hydrazine | 40 g, 72% yield | ClC=1C=C(C=CC1)NN | C6H7ClN2
